datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1CCCC[N+:21]1(C)[H:20].Cc1cc(C)[n:10][nH]1>>CC1CCCC[N:21]1C.Cc1cc(C)[n+:10]([H:20])[nH]1 10=20;20,21=21",
"O=[N+]([O-])c1ccc(P(=O)(Oc2ccccc2)[N-:10]c2nccs2)cc1.OCCCNc1nc(NCCCO)[n+:21]([H:20])c(NCCCO)n1>>O=[N+]([O-])c1ccc(P(=O)(Oc2ccccc2)[N:10](c2nccs2)[H:20])cc1.OCCCNc1nc(NCCCO)[n:21]c(NCCCO)n1 10=20;20,21=21",
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1.C[Si](C)(C)OC1C[N:10](Cc2ccccc2)C1>>COc1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1.C[Si](C)(C)OC1C[N+:10](Cc2ccccc2)([H:20])C1 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.CC(=O)N(C)c1nnc(S(=O)(=O)[NH:21][H:20])s1>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.CC(=O)N(C)c1nnc(S(=O)(=O)[NH-:21])s1 10=20;20,21=21",
"CCCCNc1cc[nH+]c([S-:10])n1.CCSC(O)[OH+:21][H:20]>>CCCCNc1cc[nH+]c([S:10][H:20])n1.CCSC(O)[OH:21] 10=20;20,21=21",
"Cc1cc(Cc2cc(C)c([O-:10])c(C)c2)c([O-])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Cc2cc(C)c([O:10][H:20])c(C)c2)c([O-])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(CN)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)(CN)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1nc(C(=O)[O-])ccc1[O-:10].Cn1cnc(C(=O)[O-])c1C(=O)[O:21][H:20]>>Cc1nc(C(=O)[O-])ccc1[O:10][H:20].Cn1cnc(C(=O)[O-])c1C(=O)[O-:21] 10=20;20,21=21",
"C[NH+](C)CCC/[N:10]=C(/c1ccccc1)c1cccc2ccccc12.C[NH+](C)Cc1cc(O)c(O)c(C[N+:21](C)(C)[H:20])c1>>C[NH+](C)CCC/[N+:10](=C(/c1ccccc1)c1cccc2ccccc12)[H:20].C[NH+](C)Cc1cc(O)c(O)c(C[N:21](C)C)c1 10=20;20,21=21",
"NC(=O)Nc1[nH]c[n+:21]([H:20])c1C(=O)[O-].Oc1ccc2[nH]c[n:10]c2c1>>NC(=O)Nc1[nH]c[n:21]c1C(=O)[O-].Oc1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC[Se](=O)[O-:10].[O-][n+]1ccc(N[O:21][H:20])c2ccccc21>>CC[Se](=O)[O:10][H:20].[O-][n+]1ccc(N[O-:21])c2ccccc21 10=20;20,21=21",
"Cc1ccc(C(C)C)cc1[O-:10].ON=C1CCC/C(=N\[O:21][H:20])C1=NO>>Cc1ccc(C(C)C)cc1[O:10][H:20].ON=C1CCC/C(=N\[O-:21])C1=NO 10=20;20,21=21",
"CCCCCC[N:10](CC(C)O)CC(C)O.CCNc1cc[nH+]c([S:21][H:20])n1>>CCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].CCNc1cc[nH+]c([S-:21])n1 10=20;20,21=21",
"C#CCCCCCC[NH2:10].C[N+](C)(C)CCc1ccccc1[O:21][H:20]>>C#CCCCCCC[NH2+:10][H:20].C[N+](C)(C)CCc1ccccc1[O-:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(C[NH2:10])ccn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(C[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CCCNc1nc[n+:21]([H:20])c2c1cnn2C.COc1nc(-n2nc(C)cc2[O-:10])nc(C)c1C>>CCCNc1nc[n:21]c2c1cnn2C.COc1nc(-n2nc(C)cc2[O:10][H:20])nc(C)c1C 10=20;20,21=21",
"CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N:10](C)C.Oc1ccccc1/C(c1ccccc1)=[NH+:21]/[H:20]>>CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N+:10](C)(C)[H:20].Oc1ccccc1C(c1ccccc1)=[NH:21] 10=20;20,21=21",
"CC(C)[N+:21]1([H:20])CCCCC1.CCCCCCCC[NH2:10]>>CC(C)[N:21]1CCCCC1.CCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CNc1[nH]c2cncnc2[n:10]1.Nc1n(-c2ccc([N+](=O)[O-])cc2)nn[n+:21]1[H:20]>>CNc1[nH]c2cncnc2[n+:10]1[H:20].Nc1n(-c2ccc([N+](=O)[O-])cc2)nn[n:21]1 10=20;20,21=21",
"O=CN[O:21][H:20].OCCNC1CC[N:10](Cc2ccccc2)CC1>>O=CN[O-:21].OCCNC1CC[N+:10](Cc2ccccc2)([H:20])CC1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCc1ccc(O)c(O)c1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCc1ccc(O)c(O)c1)[H:20] 10=20;20,21=21",
"CC(O)C[N:10](CC(C)O)C(C)(C)C.c1ccc(NC(Nc2ccccc2)=[NH+:21][H:20])cc1>>CC(O)C[N+:10](CC(C)O)(C(C)(C)C)[H:20].c1ccc(NC(Nc2ccccc2)=[NH:21])cc1 10=20;20,21=21",
"COc1c(C)cccc1C(=O)[O-:10].N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O:21][H:20])ccc21>>COc1c(C)cccc1C(=O)[O:10][H:20].N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O-:21])ccc21 10=20;20,21=21",
"C[N+:21](C)(C)[H:20].O=C([O-])C(O)C[NH2:10]>>C[N:21](C)C.O=C([O-])C(O)C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cccc([N-:10]S(=O)(=O)c2ccccc2)c1.[S-]c1cc[n+:21]([H:20])c2ccccc12>>Cc1cccc([N:10](S(=O)(=O)c2ccccc2)[H:20])c1.[S-]c1cc[n:21]c2ccccc12 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2c(ccc[n+:21]2[H:20])[nH]1.Cc1ccc(C[NH2:10])cc1N>>COc1cc(S(C)=O)ccc1-c1nc2c(ccc[n:21]2)[nH]1.Cc1ccc(C[NH2+:10][H:20])cc1N 10=20;20,21=21",
"C/C(Nc1ccccc1)=[N:10]/c1ccccc1.O=C1C=CC=CC=C1[O:21][H:20]>>C/C(Nc1ccccc1)=[N+:10](/c1ccccc1)[H:20].O=C1C=CC=CC=C1[O-:21] 10=20;20,21=21",
"CC[NH:10]CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](CC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc([N+:21]2([H:20])CCCC(=O)C(O)CCC2)cc1.OCc1cccc(CO)c1[O-:10]>>Cc1ccc([N:21]2CCCC(=O)C(O)CCC2)cc1.OCc1cccc(CO)c1[O:10][H:20] 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O:21][H:20].COc1cc[n:10]c2ccccc12>>CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O-:21].COc1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC(=O)c1cc(C(C)=O)[n-:10]n1.[NH3+]Cc1ccc(C(=O)[O:21][H:20])cc1>>CC(=O)c1cc(C(C)=O)[n:10]([H:20])n1.[NH3+]Cc1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
